US07153997B2
A solution of methyl 3,5-dichloro-2-methyl-4-(3-methyl-4-hydroxy-5-isopropylphenoxy)benzoate (125 mg, 0.33 mmol) and LiOH H2O (68 mg, 1.63 mmol) in a 5:1 THF/H2O (6 mL) was stirred overnight at 20° C. under N2. The solution was concentrated under vacuum and acidified to pH 1 with 1N HCl. The resulting tan solid was collected by filtration, washed with H2O and air dried to yield 114 mg of 3,5-dichloro-2-methyl-4-(3-methyl-4-hydroxy-5-isopropylphenoxy)benzoic acid.

reactant | methyl 3,5-dichloro-2-methyl-4-(3-methyl-4-hydroxy-5-isopropylphenoxy)benzoate | 0.33 mmol, 125 mg | ClC=1C(=C(C(=O)OC)C=C(C1OC1=CC(=C(C(=C1)C(C)C)O)C)Cl)C | C19H20Cl2O4
reactant | LiOH H2O | 1.63 mmol, 68 mg | O[Li].O
solvent | THF H2O | 6 mL | C1CCOC1.O
product | 3,5-dichloro-2-methyl-4-(3-methyl-4-hydroxy-5-isopropylphenoxy)benzoic acid | 114 mg | ClC=1C(=C(C(=O)O)C=C(C1OC1=CC(=C(C(=C1)C(C)C)O)C)Cl)C | C18H18Cl2O4
